data/mechanism_extracts/JOC/10.1021_acs.joc.5c01984.json
{"doi": "10.1021_acs.joc.5c01984", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical three-component thio-perfluoroalkylation of alkenes with thiophenols and perfluoroalkyl iodides under FeCl2 catalysis to give vicinal thioether/perfluoroalkyl products.", "mechanism_family": ["radical_anodic", "mediator_anodic", "electrocatalysis_inner_sphere", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of an Fe(II)-thiolate complex (C) to an Fe(III) species (D), with concomitant cathodic reduction of D back to release product and regenerate Fe(II); perfluoroalkyl radical is generated via halogen-bonding activation of nC4F9I by TMEDA/H2O rather than direct electrolysis.", "key_intermediates": [{"name": "Halogen-bond (XB) complex of nC4F9I with TMEDA/H2O", "smiles": null, "role": "transient"}, {"name": "Perfluorobutyl radical A (nC4F9•)", "smiles": "[CH2]C(F)(F)C(F)(F)C(F)(F)C(F)(F)F", "role": "reactive"}, {"name": "Benzylic carbon radical B from nC4F9 addition to styrene", "smiles": null, "role": "reactive"}, {"name": "Fe(II)-thiolate complex C (ArS-Fe(II))", "smiles": null, "role": "reactive"}, {"name": "Fe(III)-thiolate species D after anodic oxidation", "smiles": null, "role": "reactive"}, {"name": "Disulfide ArS-SAr (2a')", "smiles": "COc1ccc(SSc2ccc(OC)cc2)cc1", "role": "off_pathway"}, {"name": "Perfluoroalkyl iodide adduct C (alkyl iodide on styrene)", "smiles": null, "role": "off_pathway"}], "electron_flow": "TMEDA/H2O activates nC4F9I via halogen bonding to release nC4F9 radical, which adds to the alkene giving benzylic radical B; in parallel, ArSH coordinates Fe(II) (C), is oxidized at the anode to Fe(III)-thiolate D, which couples with radical B and is reduced at the cathode to deliver the product while regenerating Fe(II).", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 4aa only in trace amounts; TEMPO–nC4F9-alkyl adduct B detected by LCMS, supporting perfluoroalkyl/benzyl radical intermediates."}, {"name": "Diaryl disulfide 2a' (4-MeO-C6H4-S-S-C6H4-4-OMe)", "smiles": "COc1ccc(SSc2ccc(OC)cc2)cc1", "purpose": "intermediate_trap", "observation": "Using disulfide instead of thiol gives only trace 4aa, indicating disulfide is not the productive intermediate."}, {"name": "nC4F9I + alkene without thiol (control for iodide adduct C)", "smiles": null, "purpose": "intermediate_trap", "observation": "Iodo-perfluoroalkylated alkene C not detected (n.d.), ruling out ATRA-type alkyl iodide as the intermediate."}, {"name": "Cyclic voltammetry (with/without FeCl2)", "smiles": null, "purpose": "redox_probe", "observation": "Eox decreases from 3.43 V to 3.23 V upon addition of FeCl2, indicating FeCl2 lowers the oxidation potential and mediates anodic oxidation."}], "evidence_types_used": ["intermediate_trap_TEMPO", "cyclic_voltammetry", "stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Authors explicitly exclude two alternative pathways: (i) disulfide-mediated thiyl radical pathway and (ii) ATRA-type iodoperfluoroalkylation followed by SN2 with thiolate, since both surrogate intermediates fail to give product under standard conditions. The perfluoroalkyl radical is proposed to form via halogen-bonding activation rather than direct cathodic reduction of C-I."}
